US03965151
Preparation of 11b-(2-Chlorophenyl)-7-(2-hydroxyethyl)-10-nitro-2,3,5,11b-tetrahydrooxazolo[3,2-d][1,4]benzodiazepin-6(7H)-one
A solution of 1.5 g (0.0041 M) of 11b-(2-chlorophenyl)-10-nitro-2,3,5,11b-tetrahydooxazolo[3,2-d][1,4]benzodiazepin-6(7H)-one in 30 ml of dry N,N-dimethylformamide was treated with 0.34 g (0.008 M) of a 57% dispersion of sodium hydride in mineral oil with stirring under nitrogen. After 30 min, 1.5 g (0.012 M) of 2-bromoethanol was added and the reaction was heated to 90° for 3 hr. The solvent was removed under vacuum, and the residue was dissolved in 50 ml of dichloromethane which was then washed with 50 ml of water, 25 ml of a saturated solution of brine, dried over anhydrous sodium sulfate and evaporated to dryness. The residue was crystallized from ether, and recrystallized from a mixture of dichloromethane and methanol to give the product as pale yellow prisms, m.p. 185°-190°(dec.).

reactant | 11b-(2-chlorophenyl)-10-nitro-2,3,5,11b-tetrahydooxazolo[3,2-d][1,4]benzodiazepin-6(7H)-one | 0.0041 M, 1.5 g | ClC1=C(C=CC=C1)C12N(CC(NC3=C1C=C(C=C3)[N+](=O)[O-])=O)CCO2 | C17H14ClN3O4
reactant | sodium hydride | [H-].[Na+]
reactant | 2-bromoethanol | 0.012 M, 1.5 g | BrCCO | C2H5BrO
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 11b-(2-Chlorophenyl)-7-(2-hydroxyethyl)-10-nitro-2,3,5,11b-tetrahydrooxazolo[3,2-d][1,4]benzodiazepin-6(7H)-one | ClC1=C(C=CC=C1)C12N(CC(N(C3=C1C=C(C=C3)[N+](=O)[O-])CCO)=O)CCO2 | C19H18ClN3O5
